US04219497
4.0 mm of (+)-2-bromo-3-methylbutyric acid is dissolved in a solvent consisting of 100 ml of ether, 100 ml of isobutylene, and 0.5 ml of sulfuric acid. The resulting solution is shaken for approximately 72 hours in an autoclave at room temperature. The solution is then neutralized with sodium bicarbonate, dried with magnesium sulfate, and then evaporated to yield (+)-t-butyl 2-bromo-3-methylbutyrate.

reactant | (+)-2-bromo-3-methylbutyric acid | BrC(C(=O)O)C(C)C | C5H9BrO2
reactant | isobutylene | 100 ml | CC(C)=C | C4H8
reactant | sulfuric acid | 0.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ether | 100 ml | CCOCC | C4H10O
product | (+)-t-butyl 2-bromo-3-methylbutyrate | BrC(C(=O)OC(C)(C)C)C(C)C | C9H17BrO2
